US04935515
2,3,4,5-Tetrahydro-3-(Phenylmethyl)-1H[1,2,5]Triazepino[1,2-a][1,2,4]Benzotriazine-7(8H)-One (XIVb)
Hexahydro-1-(2-nitrophenyl)-5-(phenylmethyl)-1H-1,2,5-triazepine (10.0 g) in 1,2-dimethoxyethane (250 ml) was hydrogenated at over 10% palladium on carbon (2.5 g) at room temperature and atmospheric pressure until theoretical uptake had been achieved. At this stage the reaction solution was colorless and t.l.c. on Alox-25 uv254 plates (Brinkmann) with ethyl acetate as developer showed a single component. The mixture was filtered through Celite and the filter pad washed with 1,2-dimethyloxyethane. The filtrate was evaporated to approximately 150 ml and 1,1-carbonyldiimidazole (20 g) was added. The solution was evaporated to dryness and the residue was dissolved in chloroform and applied to a column (75×6.4 cm) of dry column grade neutral alumina prepacked in chloroform. Elution with chloroform removed a major component from the column. Fractions were monitored by t.l.c. on Alox-25 un254 plates with ethyl acetate as developer. Appropriate fractions were evaporated and the crude titled product was crystallized from chloroform-heptane (seeding); wt. 7.56 g (77%), mp=129°-131°. Two crystallizations from the same solvent gave pure product, mp=127°-128°.

reactant | Hexahydro-1-(2-nitrophenyl)-5-(phenylmethyl)-1H-1,2,5-triazepine | 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N1NCCN(CC1)CC1=CC=CC=C1 | C17H20N4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | 2,3,4,5-Tetrahydro-3-(Phenylmethyl)-1H[1,2,5]Triazepino[1,2-a][1,2,4]Benzotriazine-7(8H)-One | C1(=CC=CC=C1)CN1CCN2N(C3=C(NC2=O)C=CC=C3)CC1 | C18H20N4O
